US07291635B2
Tetrabutylammonium fluoride trihydrate (252 mg, 0.80 mmol) and AcOH (0.057 mL, 1.0 mmol) are dissolved in tetrahydrofuran (4 mL) and this is used to dissolve the title A compound, N-(2-trimethylsilanyl-ethoxycarbonyl-aminosulfonyl)-N-(1H-indol-5ylmethyl)-glycine methyl ester (90 mg, 0.20 mmol) in a thick-walled round bottomed flask. This is sealed and stirred in an oil bath at 80° C. for 16 h. The reaction is allowed to cool, then diluted with 1N aqueous HCl (5 mL) and Et2O (25 mL). The organic layer is separated and washed with water (2×5 mL) and saturated aqueous NaCl (5 mL), then separated, dried over anhydrous MgSO4, filtered and evaporated, to yield the crude product as a brown oil. This is taken up in water (4.5 mL), MeCN (0.7 mL) and DMSO (1 mL). The resulting mixture is loaded onto a preparative reverse phase HPLC column (YMC CombiPrep Pro Cl 8, 50×20 mm I.D., particle size S-5 micron, 12 nM) in 3 aliquots and eluted at 30 mL/min with a gradient of 90:10 (water containing 0.1% TFA: MeCN) at 0 min to 10:90 at 5 min. Then held at 10:90 until 7 minutes. Fractions containing product are combined and concentrated on a Savant Speedvac to yield 5-(1H-indol-5-ylmethyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one as a light tan foam: [M−1]−=264.

reactant | Tetrabutylammonium fluoride trihydrate | 0.80 mmol, 252 mg | O.O.O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | AcOH | 1.0 mmol, 0.057 mL | CC(=O)O | C2H4O2
reactant | N-(2-trimethylsilanyl-ethoxycarbonyl-aminosulfonyl)-N-(1H-indol-5ylmethyl)-glycine methyl ester | 0.20 mmol, 90 mg | COC(CN(CC=1C=C2C=CNC2=CC1)S(=O)(=O)NC(=O)OCC[Si](C)(C)C)=O | C18H27N3O6SSi
reactant | MeCN | 0.7 mL | CC#N | C2H3N
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | HCl | 1N, 5 mL | Cl | ClH
solvent | Et2O | 25 mL | CCOCC | C4H10O
solvent | water | 4.5 mL | O | H2O
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | 5-(1H-indol-5-ylmethyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | N1C=CC2=CC(=CC=C12)CN1CC(NS1(=O)=O)=O | C11H11N3O3S
